US04152450
dl-1-Hydroxy-3-(1,1-dimethylheptyl)-6,6-dimethyl-9-(acetamido)-6a,7,8,9,10,10a-hexahydro-6H-dibenzo[b,d]pyran
A solution of 1.177 g. of dl-1-hydroxy-3-(1,1-dimethylheptyl)-6,6-dimethyl-9-(acetamido)-6a,7,10,10a-tetrahydro-6H-dibenzo[b,d]pyran in 100 ml. of ten percent aqueous ethanol containing 0.5 g. of five percent palladium suspended on carbon was stirred at 50° C. for 12 hours under a hydrogen atmosphere at 50 psi. The reaction mixture then was cooled to room temperature and filtered. The filtrate was concentrated to dryness by evaporation under reduced pressure to provide 1.06 g. of dl-trans-1-hydroxy-3-(1,1-dimethylheptyl)-6,6-dimethyl-9-(acetamido)-6a,7,8,9,10,10a-hexahydro-6H-dibenzo[b,d]pyran. Nuclear magnetic resonance spectroscopy demonstrated the product thus formed to be indentical to that prepared in Example 5.

reactant | 1-hydroxy-3-(1,1-dimethylheptyl)-6,6-dimethyl-9-(acetamido)-6a,7,10,10a-tetrahydro-6H-dibenzo[b,d]pyran | OC1=CC(=CC=2OC(C3C(C21)CC(=CC3)NC(C)=O)(C)C)C(CCCCCC)(C)C | C26H39NO3
catalyst | palladium | [Pd] | Pd
solvent | ethanol | 0.5 g | C(C)O | C2H6O
product | 1-Hydroxy-3-(1,1-dimethylheptyl)-6,6-dimethyl-9-(acetamido)-6a,7,8,9,10,10a-hexahydro-6H-dibenzo[b,d]pyran | OC1=CC(=CC=2OC(C3C(C21)CC(CC3)NC(C)=O)(C)C)C(CCCCCC)(C)C | C26H41NO3
